US08217064B2
2-[6-Chloro-5-(2,2,2-trifluoro-ethoxy)-4′-trifluoromethyl-biphenyl-3-yl]-3-cyclobutyl-propionic acid Methyl Ester
To a solution of 2-[6-amino-5-(2,2,2-trifluoro-ethoxy)-4′-trifluoromethyl-biphenyl-3-yl]-3-cyclobutyl-propionic acid methyl ester (14.7 g, 27.7 mmol) in a mixture of MeCN and H2O (120 mL/120 mL), concentrated HCl (25 mL) was added. The reaction mixture was cooled down to 0-5° C. and a solution of NaNO2 (2.9 g, 42.0 mmol) in water (3 mL) was added dropwise. The reaction mixture was stirred at 0-5° C. for 40 min and CuCl (I) (27 g, 272.7 mmol) was added at once. The reaction mixture was heated at 50° C. for additional 3 h and the solvent was evaporated. The reaction mixture was extracted with EtOAc (3×50 mL) and the combined organic phases were washed with water (200 mL) and brine (100 mL). The organic phase was dried over MgSO4 and evaporated to give the product (14.5 g, 95%) as a yellow oil. 1H NMR (300 MHz, CDCl3/TMS): δ 7.70 (d, J=8.2 Hz, 2H), 7.53 (d, J=8.0 Hz, 2H), 6.98 (dd, J=6.1, 1.6 Hz, 2H), 4.47 (q, J=8.0 Hz, 2H), 3.68 (s, 3H), 3.48 (t, J=7.7 Hz, 1H), 2.20-2.10 (m, 2H), 2.03-1.75 (m, 5H), 1.70-1.52 (m, 2H). 13C NMR (75 MHz, CDCl3/TMS): δ 173.6, 153.5, 142.2, 141.0, 138.9, 129.7, 125.0 (q, 3JCF=3.6 Hz), 124.8, 124.0 (q, 1JCF=271.6 Hz), 126.6 (q, 1JCF=278.8 Hz), 121.4, 114.0, 67.3 (q, 1JCF=35.4 Hz), 52.2, 49.3, 40.8, 34.0, 28.3, 28.0, 18.5.

reactant | 2-[6-amino-5-(2,2,2-trifluoro-ethoxy)-4′-trifluoromethyl-biphenyl-3-yl]-3-cyclobutyl-propionic acid methyl ester | 27.7 mmol, 14.7 g | COC(C(CC1CCC1)C=1C=C(C(=C(C1)OCC(F)(F)F)N)C1=CC=C(C=C1)C(F)(F)F)=O | C23H23F6NO3
reactant | HCl | 25 mL | Cl | ClH
reactant | NaNO2 | 42.0 mmol, 2.9 g | N(=O)[O-].[Na+]
solvent | MeCN | CC#N | C2H3N
solvent | H2O | 120 mL | O | H2O
solvent | water | 3 mL | O | H2O
catalyst | CuCl | 272.7 mmol, 27 g | Cl[Cu]
product | 2-[6-Chloro-5-(2,2,2-trifluoro-ethoxy)-4′-trifluoromethyl-biphenyl-3-yl]-3-cyclobutyl-propionic acid Methyl Ester | 14.5 g, 95% | COC(C(CC1CCC1)C=1C=C(C(=C(C1)OCC(F)(F)F)Cl)C1=CC=C(C=C1)C(F)(F)F)=O | C23H21ClF6O3
